US05869493
a) (R)-9-[4-(N-Butoxycarbonyl-L-valyloxy)-2-(butyryloxymethyl)butyl]guanine
DCC (110 mg, 0.53 mmol) was dissolved in dichloromethane (10 ml) and butyric acid (82 mg, 0.93 mmol) was added. After 4 hours at room temperature the mixture was filtered and the filtrate was evaporated. The residue was dissolved in pyridine (5 ml) and (R)-9-[4-(N-tert-Butoxycarbonyl-L-valyloxy)-2-hydroxymethylbutyl]guanine (200 mg, 0.44 mmol) (Example 1, step a) was added. The mixture was stirred for 120 hours at room temperature. According to TLC the reaction was incomplete and more anhydride was made using the procedure above. This anhydride was added and the mixture was stirred for an additional 20 hours. The reaction mixture was evaporated and chromatographed first on silica gel and then on aluminum oxide, in both cases eluted with dichloromethane/methanol to give 79 mg of the intermediate product.

reactant | DCC | 0.53 mmol, 110 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | butyric acid | 0.93 mmol, 82 mg | C(CCC)(=O)O | C4H8O2
reactant | (R)-9-[4-(N-tert-Butoxycarbonyl-L-valyloxy)-2-hydroxymethylbutyl]guanine | 0.44 mmol, 200 mg | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)OCC[C@H](CN1C=2N=C(NC(C2N=C1)=O)N)CO | C20H32N6O6
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (R)-9-[4-(N-Butoxycarbonyl-L-valyloxy)-2-(butyryloxymethyl)butyl]guanine | 79 mg | C(CCC)OC(=O)N[C@@H](C(C)C)C(=O)OCC[C@H](CN1C=2N=C(NC(C2N=C1)=O)N)COC(CCC)=O | C24H38N6O7
